US08669234B2
2-{5-[4′-(2-{1-[2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyryl]-pyrrolidin-2-yl}-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester:
This compound was made in 74% yield by the same procedure as 2-[5-(4′-{2-[1-(5,5,5-Trifluoro-2-methoxycarbonylamino-pentanoyl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester, using 2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyric acid methyl ester as the starting material. LCMS-ESI+: calculated for C39H46F3N7O6: 765.35; observed [M+1]+: 766.12.

reactant | 2-[5-(4′-{2-[1-(5,5,5-Trifluoro-2-methoxycarbonylamino-pentanoyl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(CCC(F)(F)F)NC(=O)OC)=O | C38H44F3N7O5
reactant | 2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyric acid methyl ester | COC(C(CCOCC(F)(F)F)NC(=O)OC)=O | C9H14F3NO5
product | 2-{5-[4′-(2-{1-[2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyryl]-pyrrolidin-2-yl}-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 74% yield | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(CCOCC(F)(F)F)NC(=O)OC)=O | C39H46F3N7O6
